US07425560B2
A solution of cyanoacetic acid (1.52 g, 17.8 mmol) in acetic anhydride (2.45 mL, 25.9 mmol) was added to 1-isobutyl-3-methylthiourea (2.37 g, 16.2 mmol). The reaction mixture was heated to 60° C. for 1.5 h. The solvent was evaporated and the resulting red oil was redissolved in ethanol (5 mL) and 5M sodium hydroxide (1.6 mL, 8.1 mmol) was added. The reaction mixture was refluxed for 2 h. The solvent was co-evaporated with ethanol and the resulting pale brown solid was purified by flash chromatography (ethyl acetate) to yield 6-amino-1-isobutyl-3-methyl-2-thioxo-1H-pyrimidin-4-one (1.0 g, 29%) as a yellow solid.

reactant | cyanoacetic acid | 17.8 mmol, 1.52 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 25.9 mmol, 2.45 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-isobutyl-3-methylthiourea | 16.2 mmol, 2.37 g | C(C(C)C)NC(=S)NC | C6H14N2S
reactant | sodium hydroxide | 8.1 mmol, 5M, 1.6 mL | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-1-isobutyl-3-methyl-2-thioxo-1H-pyrimidin-4-one | 1.0 g, 29% | NC1=CC(N(C(N1CC(C)C)=S)C)=O | C9H15N3OS
